US08624040B2
Step 3: ethyl 7,7-dimethyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine-2-carboxylate hydrochloride
A solution of ethyl 5-benzyl-7,7-dimethyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine-2-carboxylate (14.6 g, 0.044 mol) in anhydrous DCM was cooled to 0° C. whereupon K2CO3 (6.1 g, 0.044 mmol) and α-chloroethyl chloroformate (6.97 g, 0.049 mol) were added. Upon complete addition, the reaction was heated at reflux overnight. The reaction was cooled to room temperature and diluted with DCM, then washed with saturated aqueous NaHCO3 and brine respectively. The organic layer was dried over anhydrous Na2SO4 and evaporated to afford an oily residue which was taken up in EtOH and refluxed for 2 hours. The solvent was evaporated to dryness and the residue was washed with ethyl acetate to afford the desired product (9.6 g, 79%). 1H NMR (400 MHz, DMSO) δ 9.82 (s, 2H), 7.64 (s, 1H), 4.28 (q, J=7.2 Hz, 2H), 4.15 (s, 2H), 3.26 (s, 2H), 1.42 (s, 6H), 1.28 (t, J=7.2 Hz, 3H).

reactant | ethyl 5-benzyl-7,7-dimethyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine-2-carboxylate | 0.044 mol, 14.6 g | C(C1=CC=CC=C1)N1CC2=C(C(C1)(C)C)SC(=C2)C(=O)OCC | C19H23NO2S
reactant | K2CO3 | 0.044 mmol, 6.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | α-chloroethyl chloroformate | 0.049 mol, 6.97 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | EtOH | CCO | C2H6O
product | ethyl 7,7-dimethyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine-2-carboxylate hydrochloride | 9.6 g, 79% | Cl.CC1(C2=C(CNC1)C=C(S2)C(=O)OCC)C | InChI=1S/C12H17NO2S.ClH/c1-4-15-11(14)9-5-8-6-13-7-12(2,3)10(8)16-9;/h5,13H,4,6-7H2,1-3H3;1H
